US05352563
Next, a protective layer to which were added 700 ml/mol Ag of tetrazolium compound T-6 represented by Formula T, 300 mg of sodium p-dodecylbenzenesulfonate and 80 mg/mol Ag of 5-nitroindazole was coated according to double-jet process, and this was designated as Sample (1). Also, a protective layer, to which 5-nitrosoindazole and 2.5 g per mol of Ag of cyclodextrin Isoelite P, produced by Ensuikoseito Co., were added, was coated also according to double-jet process. This was designated as Sample (2).

reactant | tetrazolium | [NH+]=1NN=NC1
reactant | sodium p-dodecylbenzenesulfonate | 300 mg | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | 5-nitroindazole | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
product | 5-nitrosoindazole | N(=O)C=1C=C2C=NNC2=CC1 | C7H5N3O
